US07592456B2
Dioxane (100 mL) and 2M sodium carbonate solution (15 mL) were added to a mixture of 6-bromo-2-naphthol (2.3 g, 10 mmol), 4-fluorobenzeneboronic acid (2.2 g, 15 mmol) and tetrakis(triphenylphosphine)palladium(0) (0.6 g). The reaction was heated to 80° C. under nitrogen for 5 hours. The cooled reaction mixture was poured into dilute hydrochloric acid (200 mL) and extracted with ethyl acetate (x3). The combined organic layers were washed with water (x2) and brine, dried over MgSO4 and evaporated in vacuo. The residue was purified by flash column chromatography on silica, eluting with 10-20% ethyl acetate/isohexane, to give 6-(4-fluorophenyl)-2-naphthol as a white solid (1.75 g, 74%). 1H NMR (500 MHz, CDCl3) δ 7.91 (1H, s), 7.80 (1H, d, J=8.8 Hz), 7.75 (1H, d, J=8.5 Hz), 7.65-7.63 (3H, m), 7.18-7.12 (4H, m), 4.97 (1H, s).

reactant | sodium carbonate | 2M, 15 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | 6-bromo-2-naphthol | 10 mmol, 2.3 g | BrC=1C=C2C=CC(=CC2=CC1)O | C10H7BrO
reactant | 4-fluorobenzeneboronic acid | 15 mmol, 2.2 g | FC1=CC=C(C=C1)B(O)O | C6H6BFO2
reactant | hydrochloric acid | 200 mL | Cl | ClH
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.6 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | Dioxane | 100 mL | O1CCOCC1 | C4H8O2
product | 6-(4-fluorophenyl)-2-naphthol | 1.75 g, 74% | FC1=CC=C(C=C1)C=1C=C2C=CC(=CC2=CC1)O | C16H11FO
